US09120793B2
(S)-3-(4-{2-[4-(2-Methoxy-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester
To a stirred solution (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester (0.250 g, 0.585 mmol) and 1-bromo-2-methoxy-ethane (0.22 mL, 2.34 mmol) in acetonitrile (10 mL) is added cesium carbonate (0.381 g, 1.17 mmol) at room temperature and the reaction mixture is stirred at room temperature overnight. The reaction mixture is filtered through diatomaceous earth and washed with EtOAc (20 mL), and the filtrate is concentrated to dryness. The residue is dissolved in EtOAc (30 mL), washed with water (2×30 mL), brine solution (30 mL), dried over sodium sulphate, and evaporated under reduced pressure. The crude compound is purified by silica gel (combiflash purifier) and is eluted with 17-19% EtOAc in hexane to give the title compound as a white semi solid (0.190 g, 64%). LCMS m/z 514 (M+H)+.

reactant | (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.585 mmol, 0.250 g | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)O)=O | C27H25N3O4
reactant | 1-bromo-2-methoxy-ethane | 2.34 mmol, 0.22 mL | BrCCOC | C3H7BrO
reactant | cesium carbonate | 1.17 mmol, 0.381 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-3-(4-{2-[4-(2-Methoxy-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy}-phenyl)-hex-4-ynoic acid ethyl ester | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)OCCOC)=O | C30H31N3O5
